US07371748B2
1,4-Dioxa-8-aza-spiro[4.5]decane-8-carboxylic acid [4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-amide
Using 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine, phenyl chloroformate and 1,4-dioxa-8-aza-spiro[4.5]decane, the title compound was prepared as white crystals (53% yield). MS: m/e=434(M+H+), mp 208-209° C.

reactant | 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine | COC1=CC=C(C2=C1N=C(S2)N)C2CCOCC2 | C13H16N2O2S
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 1,4-dioxa-8-aza-spiro[4.5]decane | O1CCOC12CCNCC2 | C7H13NO2
product | 1,4-Dioxa-8-aza-spiro[4.5]decane-8-carboxylic acid [4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-amide | COC1=CC=C(C2=C1N=C(S2)NC(=O)N2CCC1(OCCO1)CC2)C2CCOCC2 | C21H27N3O5S
